US05700810
A mixture of 5-chloro-2-hydroxy-2'-methoxybenzophenone [prepared from 2-bromo-4-chloro-(2-methoxyethoxy)methoxybenzene and orthoanisaldehyde as the starting materials: melting point, 94°-98° C. (recrystallized from isopropyl ether)](11.8 g), diethyl malonate (13.6 g) and potassium fluoride (2.61 g) was heated at 180° C. for 8.5 hours. After cooling, ethyl acetate was added to the mixture, washed with water, dried and evaporated. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane: 1:10) to yield 6-chloro-4-(2-methoxyphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid ethyl ester as colorless crystals (7.78 g).

reactant | 5-chloro-2-hydroxy-2'-methoxybenzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)OC)C1)O | C14H11ClO3
reactant | 2-bromo-4-chloro-(2-methoxyethoxy)methoxybenzene | BrC1=C(C=CC(=C1)Cl)OCOCCOC | C10H12BrClO3
reactant | orthoanisaldehyde | C(C=1C(=CC=CC1)OC)=O | C8H8O2
product | 6-chloro-4-(2-methoxyphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid ethyl ester | 7.78 g | C(C)OC(=O)C=1C(OC2=C(C1C1=C(C=CC=C1)OC)C=C(C=C2)Cl)=O | C19H15ClO5
